US07759339B2
1-(1-(Naphthalen-1-ylsulfonyl)piperidin-4-yl)cyclopropanol
Ethylmagnesium bromide (0.110 mL, 3.0 M in THF, 0.330 mmol) was added dropwise to a stirring solution of methyl 1-(naphthalen-1-ylsulfonyl)piperidine-4-carboxylate (0.100 g, 0.30 mmol) and methyltitanium triisopropoxide (0.300 mL, 1.0 M in THF, 0.300 mmol) in tetrahydrofuran (3 mL) at 0° C. The reaction mixture was allowed to warm to ambient temperature over 2 h then quenched with water (15 mL). The resulting flocculent solution was diluted with ethyl acetate (15 mL) and filtered through Celite. The filtrate was extracted with ethyl acetate (2×10 mL). The combined organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting residue was purified by column chromatography on SiO2 eluted with hexanes/ethyl acetate (1:1) to yield 0.035 g (35%) of the title compound as a white foam. 1H NMR (400 MHz, Chloroform-d) δ, ppm: 0.36-0.41 (m, 2 H), 0.67-0.71 (m, 2H), 0.90-0.98 (m, 1 H), 1.72 (dd, J=13.89, 1.26 Hz, 2 H), 2.49 (td, J=12.51, 2.53 Hz, 2 H), 3.91-4.02 (m, 2 H), 7.54-7.60 (m, 3 H), 7.92 (d, J=8.34 Hz, 1 H), 8.06 (d, J=8.08 Hz, 1 H), 8.21 (d, J=7.33 Hz, 1 H), 8.76 (s, 1 H); ESI-MS: m/z 332.3 (M+H)+.

reactant | Ethylmagnesium bromide | 0.330 mmol, 3.0 M, 0.110 mL | C(C)[Mg]Br
reactant | methyl 1-(naphthalen-1-ylsulfonyl)piperidine-4-carboxylate | 0.30 mmol, 0.100 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N1CCC(CC1)C(=O)OC | C17H19NO4S
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | methyltitanium triisopropoxide | 0.300 mmol, 1.0 M, 0.300 mL | CC([O-])C.CC([O-])C.CC([O-])C.C[Ti+3]
product | 1-(1-(Naphthalen-1-ylsulfonyl)piperidin-4-yl)cyclopropanol | 0.035 g, 35% | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N1CCC(CC1)C1(CC1)O | C18H21NO3S
